US05679790
To a solution of 12.0 g of ε-hexanolactone in 20 ml of ethanol was added a solution of 11.7 g of potassium hydroxide in 20 ml of water under ice-cooling and the reaction mixture was stirred for 2.5 hours at 40° C. After reaction, the reaction mixture was adjusted to pH 9 by adding 1N-HCl solution and washed with ethyl acetate (twice). The aqueous layer was concentrated under reduced pressure and the residue was adjusted to pH 1 by adding 1N-HCl solution and extracted by ethyl acetate. The organic layer was dried over magnesium sulfate and the solvent was removed under reduced pressure to give 11.5 g of 6-hydroxyhexanoic acid. A mixture of 1 g of 6-hydroxyhexanoic acid obtained above, 0.72 mg of sodium bicarbonate in 20 ml of water was stirred for 15 minutes. After reaction, the solvent was removed and the resulting residue was washed with acetonitrile to give 1.24 g of sodibm 6-hydroxyhexanoic acid. Then, 276 mg of this compound was dissolved in 2.7 ml of dimethylformamide and to this solution was added 161 mg of methoxymethyl chloride and the reaction mixture was stirred for 1.5 hours at room temperature. After adding 10 ml of ethyl acetate to the reaction mixture, the organic layer was washed with saline, saturated sodium bicarbonate aqueous solution and saline respectively and dried over magnesium sulfate. The solvent was removed to give 190 mg (59%) of methoxymethyl 6-hydroxyhexanoate [Compound (15)].

reactant | ε-hexanolactone | 12.0 g | C1(CCCC(C)O1)=O | C6H10O2
reactant | potassium hydroxide | 11.7 g | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 6-hydroxyhexanoic acid | 11.5 g | OCCCCCC(=O)O | C6H12O3
